US04897414
1-benzenesulphonyl-2-oxo-5-ethylthio-pyrrolidine
To 3.1 g of 5-ethylthio pyrrolidin-2-one in 130 cm3 of tetrahydrofuran there is added at -65° C., 14.2 cm3 of a 1.6M solution of butyllithium in hexane. After 20 minutes, there is added 3.77 g of benzenesulphonyl chloride in 15 cm3 of tetrahydrofuran. After allowing to return to ambient temperature and concentrating to dryness under reduced pressure, 4 g of the expected product is obtained. m.p. 100°-113° C., crystallized from ethanol.

reactant | 5-ethylthio pyrrolidin-2-one | 3.1 g | C(C)SC1CCC(N1)=O | C6H11NOS
reactant | butyllithium | C(CCC)[Li]
reactant | benzenesulphonyl chloride | 3.77 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | tetrahydrofuran | 130 cm3 | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 15 cm3 | O1CCCC1 | C4H8O
product | 1-benzenesulphonyl-2-oxo-5-ethylthio-pyrrolidine | 4 g | C1(=CC=CC=C1)S(=O)(=O)N1C(CCC1SCC)=O | C12H15NO3S2
